US07153855B2
In a similar manner as described in Example 29 from 2-(3-bromophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (200 mg, 0.39mmol) and thiophene-3-boronic acid, N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-[3-(3-thienyl)phenyl]pyrazolo[1,5-a]pyridin-7-amine (94 mg, 47%) was obtained as a yellow foam. 1H NMR (CDCl3): δ 8.00 (d, 1H), 7.92 (s. 1H), 7.81 (d, 1H), 7.67 (d, 1H), 7.57 (d, 1H), 7.49–7.42 (m, 2H), 7.40–7.34 (m, 2H), 7.32–7.27 (m, 1H), 6.38 (d, 1H), 6.09–6.03 (m, 2H), 5.22 (d, 1H), 4.36 (m, 1H), 4.00 (m, 1H), 2.15–2.05 (m, 4H), 1.82–1.56 (m, 12H); MS m/z 521 (M+1).

reactant | 2-(3-bromophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 0.39mmol, 200 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H29BrN6
reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-[3-(3-thienyl)phenyl]pyrazolo[1,5-a]pyridin-7-amine | 94 mg, 47% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC(=CC=C2)C2=CSC=C2 | C31H32N6S
